US04032580
When Example 1 is repeated using p-phenyl-acetophenone and 1'-cyclohexenyl acetophenone in place of the p-tert butylbenzaldehyde, there is obtained 2-(p-biphenylyl)-3,4-pentadien-2-ol m.p. 65° to 66°, and 2-(p-1'-cyclohexenylphenyl)-3,4-pentadien-2-ol, respectively.

reactant | p-phenyl-acetophenone | C1(=CC=CC=C1)C1=CC=C(C=C1)C(C)=O | C14H12O
reactant | 1'-cyclohexenyl acetophenone | C1(=CCCCC1)C1(CC=CC=C1)C(C)=O | C14H18O
product | 2-(p-biphenylyl)-3,4-pentadien-2-ol | C1(=C(C=CC=C1)C(C)(C=C=C)O)C1=CC=CC=C1 | C17H16O
